US07060844B2
A solution of 3-(3-isocyanatomethyl-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (95 mg, 0.31 mmol) and piperidine (92.8 μl, 0.94 mmol) in THF (2.0 ml) was stirred at room temperature for 4 hours. The reaction was partitioned between EtOAc and water. The organic layer was washed with dilute HCl aqueous solution, water, saturated NaHCO3 aqueous solution, water, brine, dried with anhydrous Na2SO4, and rotary evaporated to a brown film. The brown film was chromatographed through silica gel column (CHCl3 to 4% MeOH/CHCl3 gradient) to produce piperidine-1-carboxylic acid [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-ylmethyl]-amide as a yellow solid (30 mg, 25%).

reactant | 3-(3-isocyanatomethyl-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 0.31 mmol, 95 mg | N(=C=O)CC1OC(C2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O | C18H12N2O3
reactant | piperidine | 0.94 mmol, 92.8 μl | N1CCCCC1 | C5H11N
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
product | piperidine-1-carboxylic acid [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-ylmethyl]-amide | 30 mg, 25% | O=C1NC2=CC=CC=C2C1=C1OC(C2=CC=CC=C12)CNC(=O)N1CCCCC1 | C23H23N3O3
